US07576104B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.62 g, 4.08 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.60 g, 1.85 mmol) in CH3CN (50 mL). After stirring for 20 min, isobutyryl chloride (0.24 g, 2.22 mmol) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (70 mL). The CH2Cl2 solution was washed with 1N HCl (30 mL), H2O (30 mL), brine (30 mL) and dried (MgSO4). The solvent was removed in vacuo and the solid was purified from ether (10 mL) and hexane (10 mL) to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}-2-methylpropanamide (0.48 g, 73%) as a white solid: mp 218-220° C.; 1H NMR (DMSO-d6) δ 11.13 (s, 1H), 8.39 (t, J=5.8 Hz, 1H), 7.87-7.78 (m, 2H), 7.66-7.63 (m, 1H), 5.19-5.12 (dd, J=6.9 and 12.5 Hz, 1H), 4.71 (d, J=5.8 Hz, 2H), 2.97-2.83 (m, 1H), 2.63-2.43 (m, 3H), 2.08-2.04 (m, 1H), 1.07 (d, J=6.9 Hz, 6H); 13C NMR (DMSO-d6) δ 176.52, 172.75, 169.82, 167.49, 166.95, 139.54, 134.77, 132.85, 131.50, 127.02, 121.77, 48.83, 37.48, 33.98, 30.92, 21.96, 19.53; Anal. Calcd. For C18H19N3O5: C, 60.50; H, 5.36; N, 11.76. Found: C, 60.48; H, 5.33; N, 11.64.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4.08 mmol, 0.62 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.60 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | isobutyryl chloride | 2.22 mmol, 0.24 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}-2-methylpropanamide | 0.48 g, 73% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(C(C)C)=O)=O)=O | C18H19N3O5
